US03940259
Preparation of N-(1,3-Dioxolan-2-ylmethyl)2-methyl-5-chloroaniline
2-Methyl-5-chloroaniline (75 grams), 2-chloromethyl1,3-dioxolane (25 grams), potassium carbonate (22 grams) and dimethylformamide (50 ml) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer, and reflux condenser. The reaction mixture was heated, with stirring, for a period of about 26 hours. After this time the reaction mixture was filtered and then distilled to yield the desired product N-(1,3-dioxolan-2-ylmethyl)-2-methyl-5chloroaniline having a boiling point of 116° to 118°C at 0.1 mm of Hg pressure.

reactant | 2-Methyl-5-chloroaniline | 75 grams | CC1=C(N)C=C(C=C1)Cl | C7H8ClN
reactant | 2-chloromethyl1,3-dioxolane | 25 grams | ClCC1OCCO1 | C4H7ClO2
reactant | potassium carbonate | 22 grams | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(1,3-dioxolan-2-ylmethyl)-2-methyl-5chloroaniline | O1C(OCC1)CNC1=C(C=CC(=C1)Cl)C | C11H14ClNO2
